US05189041
6,7,8,9-tetrahydropyrido[1,2-a]indole (1.15 g, 6.7 mmol) in methylene chloride (5 ml) was added dropwise at 0° C. to a solution of phosgene (10 mmol) in toluene (5 ml). The reaction mixture was stirred for one hour after which methanol (1 ml) was added gradually and the mixture allowed to warm to ambient temperature. The solvent was removed under reduced pressure to yield a white solid. Recrystallization from hexane afforded 1.08 g (70.3% of methyl 6,7,8,9-tetrahydropyrido[1,2-a]indole-1-carboxylate, as white crystals, m.p. 102°-103° C. Anal. for C14H15NO2 : Calcd. C, 73.34; H, 6.59; N, 6.11. Found: C, 72.96; H, 6.61; N, 6.33.

reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole | 6.7 mmol, 1.15 g | C1=C2C=C3N(C2=CC=C1)CCCC3 | C12H13N
reactant | phosgene | 10 mmol | C(=O)(Cl)Cl | CCl2O
reactant | methanol | 1 ml | CO | CH4O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 6,7,8,9-tetrahydropyrido[1,2-a]indole-1-carboxylate | 70.3% | C=1(C=2C=C3N(C2C=CC1)CCCC3)C(=O)OC | C14H15NO2
